US05948791
(1S,2S)-N1 -(7-Chloro-quinolin-4-yl)-N2 -(benzyl)-cyclohexane-1,2-diamine hydrochloride (1:2)
0.39 g of N-(7-chloro-quinolin-4-yl)-cyclohexane-1,2-diamine and 0.13 ml of benzaldehyde were stirred at 20° C. in 3 ml of ethanol for 3 hrs. The solvent was evaporated in order to complete the reaction. The resulting Schiff's base was again dissolved in 3 ml of ethanol, cooled in ice under argon and then treated portionwise with 0.3 g of sodium borohydride and stirred without cooling for a further 20 hrs. Excess reducing agent was decomposed by the addition of 3 ml of acetone. Thereafter, the mixture was diluted with 30 ml of 0.3N NaOH and extracted twice with 30 ml of dichloromethane each time. The crude product obtained from these extracts was purified by flash chromatography on silica gel with ethyl acetate and ethyl acetate/methanol 5:1. The purified product was converted into the hydrochloride with ethanolic hydrochloric acid and precipitated by dilution with 2-butanone. Yield: 260 mg (54%), m.p. >200° C. (dec.).

reactant | N-(7-chloro-quinolin-4-yl)-cyclohexane-1,2-diamine | 0.39 g | ClC1=CC=C2C(=CC=NC2=C1)NC1C(CCCC1)N | C15H18ClN3
reactant | benzaldehyde | 0.13 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.3 g | [BH4-].[Na+]
reactant | acetone | 3 ml | CC(=O)C | C3H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | NaOH | 0.3N, 30 ml | [OH-].[Na+]
product | (1S,2S)-N1 -(7-Chloro-quinolin-4-yl)-N2 -(benzyl)-cyclohexane-1,2-diamine hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1[C@H](CCCC1)NCC1=CC=CC=C1 | InChI=1S/C22H24ClN3.ClH/c23-17-10-11-18-19(12-13-24-22(18)14-17)26-21-9-5-4-8-20(21)25-15-16-6-2-1-3-7-16;/h1-3,6-7,10-14,20-21,25H,4-5,8-9,15H2,(H,24,26);1H/t20-,21-;/m0./s1
